US08022206B2
3-(8-Azabicyclo[3.2.1]oct-2-en-3-yl)-7-[(1R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-6-amine
In a microwave vessel were added 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylic acid tert-butyl ester (60 mg, 0.2 mmol), 3-bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-furo[3,2-c]pyridin-6-ylamine (0.098 g, 0.23 mmol), potassium carbonate (0.074 g, 0.54 mmol), DME/Water (4:1) (5 mL), and the vessel was degassed 3×. Pd(PPh3)4 (0.01 g, 0.009 mmol) was then added and the reaction mixture was heated in a microwave reactor to 100° C. for 30 min. The crude reaction mixture was passed through SPE cartridge. The compound was then dissolved in dioxane and 4 M HCl in 1,4-Dioxane (0.4 mL) was added slowly at 0° C. The reaction mixture was warmed to rt and stirred overnight at rt. Purification by prep TLC using 9% NH3 in MeOH in DCM afforded the title compound. 1H NMR (400 MHz, CD3OD): δ=1.64-1.77 (m, 1H), 1.85 (d, 3H), 1.89-1.98 (m, 1H), 2.01-2.12 (m, 2H), 2.18 (d, J=16.9 Hz, 1H), 2.88 (dd, J=16.8, 4.2 Hz, 1H), 3.82 (ddd, J=17.1, 5.8, 5.7 Hz, 2H), 6.46 (q, 1H), 6.52 (d, J=5.6 Hz, 1H), 7.19 (t, J=8.6 Hz, 1H), 7.37 (dd, J=9.0, 4.9 Hz, 1H), 7.54 (s, 1H), 8.16 (s, 1H). MS (ES+): m/z 447.97/450.01 (30/21) [MH+]. HPLC: tR=2.14 min (ZQ3, polar—5 min).

reactant | 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-8-azabicyclo[3.2.1]oct-2-ene-8-carboxylic acid tert-butyl ester | 0.2 mmol, 60 mg | C(C)(C)(C)OC(=O)N1C2C=C(CC1CC2)B2OC(C(O2)(C)C)(C)C | C18H30BNO4
reactant | 3-bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-furo[3,2-c]pyridin-6-ylamine | 0.23 mmol, 0.098 g | BrC1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C15H10BrCl2FN2O2
reactant | potassium carbonate | 0.54 mmol, 0.074 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | 1,4-Dioxane | 0.4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.009 mmol, 0.01 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME Water | 5 mL | COCCOC.O
product | 3-(8-Azabicyclo[3.2.1]oct-2-en-3-yl)-7-[(1R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-6-amine | C12C=C(CC(CC1)N2)C2=COC1=C2C=NC(=C1O[C@H](C)C1=C(C(=CC=C1Cl)F)Cl)N | C22H20Cl2FN3O2
